US07700628B2
B. 4-Amino-2-[2-[2-(thiophen-2-ylcarbonylamino)ethoxy]-4-methoxybenzoyl-amino]-N-(4-methoxyphenyl)benzamide
The 2-[2-[4-methoxy-2-(thiophen-2-ylcarbonylamino)ethoxy]benzoylamino]-N-(4-methoxyphenyl)-4-nitrobenzamide (258 mg, 0.44 mmol) was diluted with methanol (20 mL) and THF (20 mL). Nickel acetate tetrahydrate (220 mg, 0.88 mmol) was added and the mixture was cooled to 0° C. Sodium borohydride (72 mg, 1.90 mmol) was then added in portions. Vigorous bubbling occurred and the reaction turned black. After 15 minutes, the reaction was concentrated in vacuo. The crude residue was diluted with EtOAc (60 mL), water (20 mL), and concentrated ammonium hydroxide (10 mL). The resulting mixture was stirred for 5 minutes and then it was poured into a separatory funnel and the layers were separated. The organic layer was washed with water (20 mL) and brine (20 mL) and then dried over magnesium sulfate, filtered and concentrated to give the desired product (201 mg, 0.36 mmol, 81%) as a grey solid.

reactant | 2-[2-[4-methoxy-2-(thiophen-2-ylcarbonylamino)ethoxy]benzoylamino]-N-(4-methoxyphenyl)-4-nitrobenzamide | 0.44 mmol, 258 mg | COC=1C=C(SC1)C(=O)NCCOC1=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)[N+](=O)[O-])C=CC=C1 | C29H26N4O8S
reactant | Sodium borohydride | 1.90 mmol, 72 mg | [BH4-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Nickel acetate tetrahydrate | 0.88 mmol, 220 mg | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | 4-Amino-2-[2-[2-(thiophen-2-ylcarbonylamino)ethoxy]-4-methoxybenzoyl-amino]-N-(4-methoxyphenyl)benzamide | 0.36 mmol, 201 mg, 81% | NC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)NC(C1=C(C=C(C=C1)OC)OCCNC(=O)C=1SC=CC1)=O | C29H28N4O6S
